US06100283
2-(4'-Methoxypheny)benzimidazole-4-carboxamide (NU1076)
The acetate salt of methyl (2-(4'-methoxyphenyl)benzimidazole-4-carboxylate was dissolved in excess liquid ammonia and heated at 100° C. in a sealed pressure vessel at 40 atmospheres overnight. The ammonia was allowed to evaporate, and the solid residue was collected and washed with ice cold water (3×5 ml). Recrystallisation from aqueous methanol afforded the title compound (226.4 mg, 80%); mp 261-263° C.; Found: C, 66.07; H, 4.23; N, 15.29. C15H13N3O2. 0.2CH3OH requires C, 66.70; H, 5.08; N, 15.35; vmax /cm-1 3321.47, 3140.72, 1656.23, 1608.25, 1421.43, 1242.55; δH (d6DMSO, 200 MHz) 3.96 (3H, s, OMe), 7.23-7.27 (2H, d, J=8.6, Ph-3/3'H), 7.37-7.45 (1H, t, Ar-5H), 7.78-7.82 (1H, d, Ar-4H), 7.87 (1H, br s, Imz-H), 7.93-7.96(1H, d, Ar-6H), 8.27-8.31 (2H, d, J=8.6, Ph-2/2'H), 9.4-9.5 (1H, br s, --CONH), 13.3-13.4 (1H, br s, --CONH); m/z (EI) 267 (M+), 249, 222, 206, 77, 32.

reactant | 2-(4'-methoxyphenyl)benzimidazole-4-carboxylate | COC1=CC=C(C=C1)C=1NC2=C(N1)C=CC=C2C(=O)[O-]
reactant | ammonia | N | H3N
product | 2-(4'-Methoxypheny)benzimidazole-4-carboxamide | 226.4 mg, 80% | COC1=CC=C(C=C1)C=1NC2=C(N1)C=CC=C2C(=O)N | C15H13N3O2
